US08067362B2
Tert-butyl 3-(4-bromophenyl)propionate (433 mg, 1.52 mmol) in acetonitrile-water (3:1, 13 ml) under argon atmosphere was treated with 4-(2-carboxyethyl)benzeneboronic acid (294 mg, 1.52 mmol), K2CO3 (251 mg, 1.82 mmol) and (Ph3P)4Pd (87 mg, 73 μmol), and the stirred mixture was heated at 90° C. for 4 hours. Excess ethyl acetate and 2 M HCl was added and the organic phase was washed with 2×2 M HCl and 2× water. Drying over MgSO4 and evaporation in vacuo gave the crude product, which was purified by chromatography on silica column eluted with ethyl acetate/hexane/acetic acid 50:50:1 to provide tert-butyl 3-[4′-(2-Carboxy-ethyl)-biphenyl-4-yl]-propionate, 330 mg (62%).

reactant | Tert-butyl 3-(4-bromophenyl)propionate | 1.52 mmol, 433 mg | BrC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C13H17BrO2
reactant | 4-(2-carboxyethyl)benzeneboronic acid | 1.52 mmol, 294 mg | C(=O)(O)CCC1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | K2CO3 | 1.82 mmol, 251 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2 M | Cl | ClH
solvent | acetonitrile water | 13 ml | C(C)#N.O
catalyst | (Ph3P)4Pd | 73 μmol, 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[4′-(2-Carboxy-ethyl)-biphenyl-4-yl]-propionate | C(=O)(O)CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C22H26O4
